US09315475B2
Step 6: Preparation of tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-formylmorpholine-4-carboxylate
To a stirred solution of oxalyl chloride (2 eq) in DCM (0.3 M) at −78° C. was added a solution of DMSO (5 eq) in DCM (0.5M). The reaction mixture was stirred at −78° C. for 30 min. A solution of tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-(hydroxymethyl)morpholine-4-carboxylate (1 eq) in CH2Cl2 (0.2M) was added dropwise and stirred at −40° C. for 1.5 hours. It was then cooled to −78° C. and triethylamine (7 eq) was added and the reaction mixture was stirred at 0° C. for 1 h. Water was added and the reaction mixture was warmed to rt for 30 min. The mixture was diluted with CH2Cl2, the organic layer was washed with water and brine, dried over Na2SO4, filtered and concentrated. The crude product was used as such for the next step.

reactant | oxalyl chloride | 2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 5 eq | CS(=O)C | C2H6OS
reactant | tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-(hydroxymethyl)morpholine-4-carboxylate | 1 eq | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CO | C17H35NO5Si
reactant | triethylamine | 7 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5M | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.2M | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | tert-butyl (2S,5S)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-formylmorpholine-4-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)C=O | C17H33NO5Si
